US08623877B2
7-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid methyl ester
This intermediate was synthesized in substantially the same way as intermediate (vi), 6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline, by condensation of 7-bromo-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid methyl ester with (2S,3′S)-2-Methyl-[1,3]bipyrrolidinyl.

reactant | 6-((2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinoline | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C=1C=C2CCN(CC2=CC1)S(=O)(=O)C1=CC=C(C=C1)C | C25H33N3O2S
reactant | 7-bromo-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid methyl ester | COC(=O)N1CCC2=C(CC1)C=C(C=C2)Br | C12H14BrNO2
reactant | (2S,3′S)-2-Methyl-[1,3]bipyrrolidinyl | C[C@@H]1N(CCC1)[C@@H]1CNCC1 | C9H18N2
product | 7-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-1,2,4,5-tetrahydro-benzo[d]azepine-3-carboxylic acid methyl ester | COC(=O)N1CCC2=C(CC1)C=C(C=C2)N2C[C@H](CC2)N2[C@H](CCC2)C | C21H31N3O2
